US06582351B1
4N-Hydrogen chloride solution in ethyl acetate (5 mL) was added to a suspension of 1-[(S)-1-tert-butoxycarbonylpyrrolidin-3-yl]-3-(3-chloro-4-methoxybenzyl)-5-cyano-2,3-dihydro-1H-benzimidazol-2-one (520 mg) in ethyl acetate (5 mL) at 0° C. The mixture was stirred at ambient temperature for 4 hours. The reaction mixture was concentrated in vacuo. To the residue was added an aqueous saturated sodium bicarbonate solution and ethyl acetate. The separated organic layer was washed successively with water and brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was triturated with diethyl ether to give 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-pyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazol-2-one (287 mg) as amorphous powders.

reactant | Hydrogen chloride | Cl | ClH
reactant | 1-[(S)-1-tert-butoxycarbonylpyrrolidin-3-yl]-3-(3-chloro-4-methoxybenzyl)-5-cyano-2,3-dihydro-1H-benzimidazol-2-one | 520 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N1C(N(C2=C1C=CC(=C2)C#N)CC2=CC(=C(C=C2)OC)Cl)=O | C25H27ClN4O4
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-pyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazol-2-one | 287 mg | ClC=1C=C(CN2C(N(C3=C2C=C(C=C3)C#N)[C@@H]3CNCC3)=O)C=CC1OC | C20H19ClN4O2
